US09227985B2
Step 1. 2-Chloro-7-(3,5-dimethylisoxazol-4-yl)-4-phenyl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazine
To 7-(3,5-dimethylisoxazol-4-yl)-4-phenyl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2(1H)-one (40.0 mg, 0.115 mmol) in a vial, phosphoryl chloride (1.5 mL, 16 mmol) was added and the mixture was heated at 95° C. overnight. The mixture was evaporated and extracted with EtOAc. The extracts were washed with saturated sodium bicarbonate, brine and dried over sodium sulfate. Filtration and evaporation gave the desired compound (42 mg, 100%). LCMS calc. for C20H17ClN3O2 (M+H)+: m/z=366.1. found: 366.1.

reactant | 7-(3,5-dimethylisoxazol-4-yl)-4-phenyl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2(1H)-one | 0.115 mmol, 40.0 mg | CC1=NOC(=C1C1=CC=C2C=3N(C(COC31)C3=CC=CC=C3)C(N2)=O)C | C20H17N3O3
reactant | phosphoryl chloride | 16 mmol, 1.5 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-Chloro-7-(3,5-dimethylisoxazol-4-yl)-4-phenyl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazine | 42 mg, 100% | ClC1=NC2=CC=C(C3=C2N1C(CO3)C3=CC=CC=C3)C=3C(=NOC3C)C | C20H16ClN3O2
